US08183289B2
Ethyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-methylphenyl)acetate (20 mg, 0.0443 mmol) was diluted with dioxane (500 μL) followed by the addition of NaOH (0.0885 ml, 0.443 mmol) and 200 μL of water. After stirring for 3 hours, the reaction was diluted with ethyl acetate and 2N HCl. The layers were separated and the organic layer was dried over MgSO4, filtered and concentrated to yield 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-methylphenyl)acetic acid (16.0 mg, 85.3% yield). NMR (400 MHz, CD3Cl3, CD3OD) 7.62 (d, 2H), 7.30 (d, 2H), 7.10-7.22 (m, 4H), 6.92 (d, 1H), 6.85 (d, 2H), 3.65 (t, 2H), 3.60 (s, 2H), 2.90 (t, 2H), 2.15 (s, 3H).

reactant | Ethyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-methylphenyl)acetate | 0.0443 mmol, 20 mg | ClC1=CC=C(CCNC(=O)C2=CC=C(OC3=C(C=C(C=C3)CC(=O)OCC)C)C=C2)C=C1 | C26H26ClNO4
reactant | NaOH | 0.443 mmol, 0.0885 ml | [OH-].[Na+]
reactant | water | 200 μL | O | H2O
solvent | dioxane | 500 μL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | HCl | 2N | Cl | ClH
product | 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-methylphenyl)acetic acid | 16.0 mg, 85.3% yield | ClC1=CC=C(CCNC(=O)C2=CC=C(OC3=C(C=C(C=C3)CC(=O)O)C)C=C2)C=C1 | C24H22ClNO4
